US07452901B2
2-[4-(Dimethoxy-phosphoryl)-but-2-enyl]-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanyl-ethyl ester
A solution of 2-[4-(dimethoxy-phosphoryl)-but-2-enyl]-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid (160 mg, 0.332 mmol) and trimethylsilylethanol (160 mg, 1.36 mmol) in THF (8.00 mL) was stirred with triphenylphosphine (345 mg, 1.33 mmol). To this solution was added diethyl azodicarboxylate (230 μL, 1.33 mmol) at 0° C. The mixture was allowed to warm to room temperature and stirred for 16 hours. Additional triphenylphosphine (180 mg, 0.692 mmol), trimethylsilylethanol (160 mg, 1.36 mmol), and diethyl azodicarboxylate (115 μL, 0.665 mmol) were added and the reaction mixture was stirred for another 1 day at room temperature. The reaction was worked up by removing the solvents in vacuo and purifying the residue by silica gel chromatography to provide 192 mg (85%) of the product as a clear oil. 1H NMR (300 MHz, CDCl3) δ 0.03 (s, 9H), 0.05 (s, 9H), 0.93-0.96 (m, 2H), 1.20-1.29 (m, 2H), 1.78 (s, 3H), 2.01-2.32 (m, 4H), 2.17 (s, 3H), 2.51 (d, 1H, J=22 Hz), 2.58 (d, 1H, J=22 Hz), 2.50-2.60 (m, 1H), 3.37 (d, 2H, J=7 Hz), 3.72 (d, 6H, J=11 Hz), 3.76 (s, 3H), 4.08 (appt t, 2H, J=8 Hz), 4.30 (appt t, 2H, J=8 Hz), 5.12 (s, 2H), 5.15-5.25 (m, 1H), 5.36-5.63 (m, 2H); 31P (121.4 MHz, CDCl3) δ 29.3; MS (m/z) 705.3 [M+Na]+.

reactant | 2-[4-(dimethoxy-phosphoryl)-but-2-enyl]-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid | 0.332 mmol, 160 mg | COP(=O)(OC)CC=CCC(C(=O)O)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C23H31O9P
reactant | trimethylsilylethanol | 1.36 mmol, 160 mg | C[Si](C)(C)C(C)O | C5H14OSi
reactant | triphenylphosphine | 1.33 mmol, 345 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.33 mmol, 230 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.692 mmol, 180 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | trimethylsilylethanol | 1.36 mmol, 160 mg | C[Si](C)(C)C(C)O | C5H14OSi
reactant | diethyl azodicarboxylate | 0.665 mmol, 115 μL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 8.00 mL | C1CCOC1 | C4H8O
product | 2-[4-(Dimethoxy-phosphoryl)-but-2-enyl]-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanyl-ethyl ester | 192 mg, 85% | C[Si](CCOC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)CC=CCP(=O)(OC)OC)=O)(C)C | C33H55O9PSi2
